US06960598B2
3-Bromo-4-fluorobenzonitrile (2.00 g, 10 mmol) was coupled to 2-(2-fluoro-5-nitrophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (4.01 g, 15 mmol) following the procedure described in Example 14 part a), affording 6,2′-difluoro-5′-nitrobiphenyl-3-carbonitrile as a brown solid (2.60 g, 100%). δH (360 MHz, CDCl3) 7.38 (2H, q, J 8.8), 7.77-7.82 (2H, m), 8.33-8.38 (2H, m).

reactant | 3-Bromo-4-fluorobenzonitrile | 10 mmol, 2.00 g | BrC=1C=C(C#N)C=CC1F | C7H3BrFN
reactant | 2-(2-fluoro-5-nitrophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 15 mmol, 4.01 g | FC1=C(C=C(C=C1)[N+](=O)[O-])B1OC(C(O1)(C)C)(C)C | C12H15BFNO4
product | 6,2′-difluoro-5′-nitrobiphenyl-3-carbonitrile | 2.60 g, 100% | FC1=CC=C(C=C1C1=C(C=CC(=C1)[N+](=O)[O-])F)C#N | C13H6F2N2O2
